US07994185B2
Step A: N-{2-Chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 18, Step A using N-{2-chloro-3-[(E)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,6-difluorobenzenesulfonamide (4.03 g, 8.80 mmol) and 2,2-dimethylpropanethioamide (1.03 g, 8.80 mmol), the title compound was obtained as a bright yellow solid (2.25 g; 43.7% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.87 (s, 1H), 8.54 (d, J=5.3 Hz, 1H), 7.63-7.73 (m, 1H), 7.42-7.57 (m, 3H), 7.22 (t, J=9.2 Hz, 2H), 6.53 (d, J=5.3 Hz, 1H), 1.42 (s, 9H).

reactant | N-{2-chloro-3-[(E)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,6-difluorobenzenesulfonamide | 8.80 mmol, 4.03 g | ClC1=C(C=CC=C1/C(=C\C1=NC(=NC=C1)Cl)/O)NS(=O)(=O)C1=C(C=CC=C1F)F | C18H11Cl2F2N3O3S
reactant | 2,2-dimethylpropanethioamide | 8.80 mmol, 1.03 g | CC(C(N)=S)(C)C | C5H11NS
product | N-{2-Chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 43.7% yield | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)C(C)(C)C)NS(=O)(=O)C1=C(C=CC=C1F)F | C23H18Cl2F2N4O2S2
